US06391874B1
(4-Benzyloxy-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride
The title compound was prepared according to Procedure A from 4-benzyloxyaniline and 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.73(1H,bs), 9.41(1H,s), 8.90(1H,s), 8.58(1H,d), 8.10(1H,d), 7.65(2H,d), 7.40(5H,m), 7.15(2H,d), 5.19(2H,s), 2.65(3H,s); m/z (M+1+) 410.

reactant | 4-benzyloxyaniline | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | C11H7ClN4O
product | (4-Benzyloxy-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | InChI=1S/C24H19N5O2.ClH/c1-16-28-29-24(31-16)18-7-12-22-21(13-18)23(26-15-25-22)27-19-8-10-20(11-9-19)30-14-17-5-3-2-4-6-17;/h2-13,15H,14H2,1H3,(H,25,26,27);1H
